US08461158B2
To a solution of N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-(3-piperidinyl)-1,3-propanediamine (155 mg, 0.28 mmol) and DIPEA (1 mL) in CH2Cl2 (10 mL) was added methanesulfonyl chloride (0.5 mL) at 0° C. The resulting mixture was stirred for 16 hrs at room temperature. After dilution with water, the organic layer was separated, and the aqueous layer was further extracted with CH2Cl2 (3×15 mL). The combined organic fractions were dried over Na2SO4, and the solvent removed under vacuum. The residue was chromatographed on alumina eluting with CH2Cl2/MeOH (97:3) to give partially pure material, which was further purified by chromatography on silica eluting with CH2Cl2/MeOH (97:3) to give N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-3-piperidinyl]-1,3-propanediamine (125 mg, 72% yield).

reactant | N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-(3-piperidinyl)-1,3-propanediamine | 0.28 mmol, 155 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN(C)C)C1CNCCC1)C=CC=C2OC)F | C26H37F2N9O2
reactant | DIPEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-3-piperidinyl]-1,3-propanediamine | 125 mg, 72% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN(C)C)C1CN(CCC1)S(=O)(=O)C)C=CC=C2OC)F | C27H39F2N9O4S
